US07504517B2
Preparation of 5-(R)-(4-methoxyphenyl)-1-[2-(4-methoxyphenyl)ethyl]-2-imidazolidinone:
A solution of 1-(R)-(4-methoxyphenyl)-N1-[2-(4-methoxyphenyl)ethyl]ethane-1,2-diamine (446 g, 1.48 mol) in ethyl acetate (2.25 L) is placed in a water bath and 1,1′-carbonyldiimidazole (264 g, 1.62 mol) is added in portions. The reaction is then heated to reflux for 1.5 hours after which the solution is cooled, treated with 1N HCl (2×1.5 L), brine (2×1.5 L), dried over Na2SO4 and set aside in the cold. After standing the precipitate which forms is removed by filtration and the solvent removed under reduced pressure to afford 468 g (96% yield) of the desired product. Chiral HPLC of the product thus obtained to have 99.5% of the desired (R) enantiomer present.

reactant | 1-(R)-(4-methoxyphenyl)-N1-[2-(4-methoxyphenyl)ethyl]ethane-1,2-diamine | 1.48 mol, 446 g | COC1=CC=C(C=C1)[C@H](CN)NCCC1=CC=C(C=C1)OC | C18H24N2O2
reactant | 1,1′-carbonyldiimidazole | 1.62 mol, 264 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | HCl | 1N, 1.5 L | Cl | ClH
solvent | ethyl acetate | 2.25 L | C(C)(=O)OCC | C4H8O2
solvent | brine | 1.5 L | [Cl-].[Na+].O
product | 5-(R)-(4-methoxyphenyl)-1-[2-(4-methoxyphenyl)ethyl]-2-imidazolidinone | 468 g, 96% yield | COC1=CC=C(C=C1)[C@@H]1CNC(N1CCC1=CC=C(C=C1)OC)=O | C19H22N2O3
